US07622466B2
[6-Chloro-5-(1-isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridin-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone
The title compound was synthesized in analogy to example 1 from 6-chloro-5-(1-isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid hydrochloride, O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate, 4,4-difluoro-piperidine and N,N-diisopropylethylamine in DMF to give the desired product as a light yellow foam (40%).

reactant | 6-chloro-5-(1-isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid hydrochloride | Cl.ClC1=C(C=C2C(=N1)NC(=C2)C(=O)O)OC2CCN(CC2)C(C)C
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4,4-difluoro-piperidine | FC1(CCNCC1)F | C5H9F2N
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | [6-Chloro-5-(1-isopropyl-piperidin-4-yloxy)-1H-pyrrolo[2,3-b]pyridin-2-yl]-(4,4-difluoro-piperidin-1-yl)-methanone | 40% | ClC1=C(C=C2C(=N1)NC(=C2)C(=O)N2CCC(CC2)(F)F)OC2CCN(CC2)C(C)C | C21H27ClF2N4O2
